US04284582
A mixture of ethylcyanoacetate, 1,1-dichloro-3,4-dibromo-4-methylpent-1-ene and calcium carbonate is heated in ethanol (100 parts by volume) at reflux in the presence of calcium chloride (22.2 parts) and copper salt as catalyst. The crude ethyl 1-cyano-3-(2',2'-dichlorovinyl)-2,2-dimethylcyclopropane-1-carboxylate is isolated as described in Example 77. Details are given in the following table:

reactant | ethylcyanoacetate | C(C)OC(CC#N)=O | C5H7NO2
reactant | 1,1-dichloro-3,4-dibromo-4-methylpent-1-ene | ClC(=CC(C(C)(C)Br)Br)Cl | C6H8Br2Cl2
reactant | calcium carbonate | C([O-])([O-])=O.[Ca+2]
solvent | ethanol | C(C)O | C2H6O
catalyst | calcium chloride | [Cl-].[Ca+2].[Cl-]
catalyst | copper | [Cu] | Cu
product | ethyl 1-cyano-3-(2',2'-dichlorovinyl)-2,2-dimethylcyclopropane-1-carboxylate | C(#N)C1(C(C1C=C(Cl)Cl)(C)C)C(=O)OCC | C11H13Cl2NO2
